**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET QPM3-1200-0013A Spice Library
****	Version Beta Date: 10-28-2018
****	Version 1    Date: 02-15-2019
****	Version 2    Date: 01-07-2021
***********************************************************
****	Revision record
****	Version Beta	Beta Release
****	Version 1	initial Release
****	Version 2	Dynamic improvement
*********************************************************************************
****Parasitics Excluded
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************


.subckt CPM3-1200-0013A d g s Tj

xgmos	d3 d1 g1 s1 Tj gmos_CPM3-1200-0013A


RS		s	s1	10
Ls 		s	s1	1n

R_g 		g1	g2	6.7
RG		g	g2	10
Lg 		g	g2	1n

Rd		d	d3	10
Ld 		d	d3  	1n


Ed	Id	0	value {I(Vdrain_s)}
Rdd	Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d,s1)*v(Id)))+abs((V(g1,g2)**2/6.7))}

xCGD		d1	g1	cgdmos_CPM3-1200-0013A
CGS		g1	s1	7542p
D1		s1	d1	bodydiode_CPM3-1200-0013A
xCDS		d1	s1	cds_CPM3-1200-0013A
Rds			d1	s1	0.3G

.ends CPM3-1200-0013A

*****************************************

.subckt gmos_CPM3-1200-0013A d3 d1 g1 s1 Tj

e1		NET1	0	Value {0.043*v(gk,s1)+0.105}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s1)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {10u*(V(Tj)**2)-4.6m*V(Tj)+2.51}
R_C		NET3	0 	1E6

e4		NET4	0	Value {limit(1.0507u*(V(Tj)**2)-343.478u*v(Tj)+27.93m,0,0.051)}
R_d		NET4	0 	1E6

e5		NET5	0	value {
+					If(V(gk,s1)>11,
+					limit((-165.9n*V(Tj)**2+43.46u*V(Tj)+2.892m)*(V(gk,s1)**2)+
+					(5.636u*V(Tj)**2-1.368m*V(Tj)-127.3m)*v(gk,s1)+(-51.12u*V(Tj)**2+10.39m*V(Tj)+1.631),
+					0.1,3)
+					,
+					(923.9n*V(Tj)**2-34.78u*V(Tj)-19.71m)*(V(gk,s1)**2)+
+					(-18.26u*V(Tj)**2-47.83u*V(Tj)+362.6m)*v(gk,s1)+(80.94u*V(Tj)**2+5.366m*V(Tj)-1.025)
+					)
+				      }
R_e		NET5	0 	1E6

e6		NET6   0	Value {Limit((-253.6n*V(Tj)**2+117.39u*V(Tj)+0.907),0.9,1.5)}
R_f		NET6	0	1E6

e10		NET10   0	Value {4.914m*(V(gk,s1)**2)-122.154m*V(gk,s1)+773.87m}
R_K		NET10	0	1E6

.param p8  = 0.0011
.param p11 = -8
.param p12 = 19


R100 gk s1	1E6
E100 gk s1	value {limit(V(g1,s1),p11,p12)}

********************************
G1 d1 s1 value {
+	if(V(s1,d3)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		0
+		,
+		-((v(NET5)+v(NET4))*(v(gk,s1)-V(NET3)))*(1+p8*v(s1,d3))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(s1,d3)*((1+exp(-v(NET10)*v(s1,d3)))**v(NET1))))))**2))*v(NET6)
+		)
+			)
+			}
G2 d1 s1 value {
+	if(V(d3,s1)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		0
+		,
+		((v(NET5)*(v(gk,s1)-V(NET3))))*(1+p8*v(d3,s1))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(d3,s1)*((1+exp(-v(NET10)*v(d3,s1)))**v(NET1))))))**2))*v(NET6)
+		)
+			)
+			}



.ends gmos_CPM3-1200-0013A

****************************************

.subckt cgdmos_CPM3-1200-0013A d1 g1
.param k1=3200p
.param k2=0.51
.param ka=40
.param kb=0.65
.param kc=4.0277
G11 g1 d2 value {
+		k1*(
+		(1+(limit(v(d1,g1),0,590))*(1+ka*(1+TANH(kb*V(d1,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d1))
+			}
R_CGD d1 d2 1E-4
.ends cgdmos_CPM3-1200-0013A


.subckt cds_CPM3-1200-0013A d1 s1

.param Cjo = 6304p
.param Vj  = 6
.param M   = 0.68

G12 d2 s1 value {
+	if(V(d2,s1)>0,
+		(Cjo/(1+(limit(v(d1,s1),0,640)/Vj)**M))*ddt(v(d1,s1))
+		,
+		0
+			)
+			}

R_CDS d1 d2 1E-4

.ends cds_CPM3-1200-0013A

****************************************
.model bodydiode_CPM3-1200-0013A d(is=280.889n bv=1500 EG=4.15 n=7.55
+	rs=0.009  trs1=-0.00365  trs2=0.000011 Tnom=25
+	tt=7n ibv=500u Xti=0.13 level=1)
